US07420001B2
To 3-methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester (285 mg, 0.75 mmol) in 3 mL of 1,2-dimethoxyethane was added K2CO3 (363 mg, 3.5 eq), pyridine-3-boronic acid (138 mg, 1.13 mmol), Pd(Ph3)4 (43 mg, 0.05 eq), and 0.5 mL of water. The mixture was heated and stirred in an 85° C. oil bath for 3 h. The reaction mixture was poured into water and was extracted with ethyl acetate. The organic extract was washed with water and dried over sodium sulfate. Removal of the solvent in vacuo gave the crude product, which was purified by column chromatography to give 202 mg of 3-methyl-4-pyridin-3-yl-benzofuran-2-carboxylic acid tert-butyl ester, obtained as white solid.

reactant | 3-methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester | 0.75 mmol, 285 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C15H15F3O6S
reactant | K2CO3 | 363 mg, 3.5 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | pyridine-3-boronic acid | 1.13 mmol, 138 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | water | 0.5 mL | O | H2O
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
product | 3-methyl-4-pyridin-3-yl-benzofuran-2-carboxylic acid tert-butyl ester | 202 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C=2C=NC=CC2 | C19H19NO3
